US05939405
3-[[5-Chloro-2-[[[(phosphonooxy)methyl]carbonyl]oxy]phenyl]methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one
A solution of 3-[[5-chloro-2-[[[[bis-(phenylmethyl)phosphonooxy]methyl]carbonyl]oxy]phenyl]methyl]-5-[4-(trifluoromethyl)phenyl]- 1,3,4 -oxadiazol-2(3H)-one (138 mg, 0.20 mmol) in ethyl acetate (30 mL) and PtO2 (30 mg) was hydrogenated at 30 psi in a Parr apparatus for 1 hr. After hydrogenation is complete, THF (30 mL) was added to solublize the product and then filtered through a pad of Celite to remove the catalyst. The filtrate was evaporated and the residue was recrytallized twice from ether-hexanes and then acetone-hexanes to afford the title compound as a white powder (83 mg, 82%). MS m/e 509 (MH+).

reactant | 3-[[5-chloro-2-[[[[bis-(phenylmethyl)phosphonooxy]methyl]carbonyl]oxy]phenyl]methyl]-5-[4-(trifluoromethyl)phenyl]- 1,3,4 -oxadiazol-2(3H)-one | 0.20 mmol, 138 mg | ClC=1C=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)OC(=O)COP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H25ClF3N2O8P
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 30 mg | O=[Pt]=O
product | 3-[[5-Chloro-2-[[[(phosphonooxy)methyl]carbonyl]oxy]phenyl]methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one | 83 mg, 82% | ClC=1C=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)OC(=O)COP(=O)(O)O | C18H13ClF3N2O8P
